US07214715B2
To an ice-cold, stirred mixture of 4-(benzyloxy)-N-propylbutanamide (2.59 g, 11.0 mmol) in THF (8 mL) is added lithium aluminum hydride (0.54 g, 14.3 mmol). The reaction mixture is heated to 40–50 degrees C. for 5 hours. The cooled reaction mixture is quenched with water (0.5 mL), sodium hydroxide (2 N, 1.0 mL), and saline (0.5 mL) then diluted with ether (30 mL). The precipitate that formed is filtered off, and the ether phase dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give N-[4-(benzyloxy)butyl]-N-propylamine (2.41 g), APCI-MS (m/z): 222 [M+H]+.

reactant | 4-(benzyloxy)-N-propylbutanamide | 11.0 mmol, 2.59 g | C(C1=CC=CC=C1)OCCCC(=O)NCCC | C14H21NO2
reactant | lithium aluminum hydride | 14.3 mmol, 0.54 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-[4-(benzyloxy)butyl]-N-propylamine | 2.41 g | C(C1=CC=CC=C1)OCCCCNCCC | C14H23NO
